US06730793B1
7-(diphenylamino)-9,9-didecylfluorene-2-carbaldehyde
To a solution of (7-bromo-9,9-didecylfluoren-2-yl)diphenylamine (34.6 g, 0.05 mol) in THF (200 mL), cooled to less than −50° C., a solution of n-butyllithium in hexanes (1.6M, 45 mL, 0.072 mol) was added over 15 minutes. After 30 minutes, a solution of DMF (7.5 mL, 0.097 mol) in THF (40 mL) was added, and after 1 hour, the temperature was allowed to rise to 0° C. The mixture was cooled in an ice bath, and treated with dilute hydrochloric acid (7.5 mL conc. HCl mixed with 60 mL water). After dilution with toluene (200 mL), the organic phase was washed with water, aqueous sodium bicarbonate, and saturated sodium chloride solution, dried and concentrated. The residue was chromatographed over 500 g of silica gel. Elution with 20% toluene-heptane and after removal of solvent, the product, which was initially obtained as a glassy solid, on standing with methanol (150 mL), crystallized into yellow solids, 28.2 g, (88% yield), m.p. 77-78.5° C. Anal. Calcd. for C46H59NO: C, 86.06%; H, 9.26%; N, 2.18%. Found: C, 85.81%; H, 9.49%; N, 2.10%. 1H NMR (270 MHz; CDCl3, ppm): 0.61-0.65 (broad), 0.83, 0.85, 0.88 (triplet), 1.05-1.29 (complex, broad), 1.80-2.00 (complex multiplet), decyl protons, 20H; 7.02, 7.03, 7.04, 7.05, 7.06, 7.07, 7.12,, 7.15, 7.24, 7.26, 7.29, 7.59, 7.62, 7.69, 7.72, 7.80, 7.82, 7.83 (complex multiplets, aromatic protons, 16H); 10.02 (singlet, CHO proton, 1H). 13C-NMR (CDCl3, noise-decoupled, ppm): 14.11, 22.66, 23.84, 29.11, 29.29, 29.55, 29.92,31.88, 40.03, 55.15 (sp3 carbons); 118.21, 119.11, 121.70, 122.82, 123.11, 123.31, 124.38, 129.30, 130.83, 134.02, 134.51, 147.49, 147.64, 148.85, 151.30, 153.69 (sp2 carbons); 192.19 (sp2 carbon of CHO moiety).

reactant | (7-bromo-9,9-didecylfluoren-2-yl)diphenylamine | 0.05 mol, 34.6 g | BrC1=CC=C2C=3C=CC(=CC3C(C2=C1)(CCCCCCCCCC)CCCCCCCCCC)N(C1=CC=CC=C1)C1=CC=CC=C1 | C45H58BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | 0.097 mol, 7.5 mL | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 7.5 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | 150 mL | CO | CH4O
product | 7-(diphenylamino)-9,9-didecylfluorene-2-carbaldehyde | 88% yield | C1(=CC=CC=C1)N(C1=CC=C2C=3C=CC(=CC3C(C2=C1)(CCCCCCCCCC)CCCCCCCCCC)C=O)C1=CC=CC=C1 | C46H59NO
